US05506256
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine (393 mg) was subjected to DMSO-DCC oxidation in the same manner as in Example 1-D) to give 328 mg of (2S)-1-(N-benzyloxycarbonyl-L-prolyl)-2-(phenoxyacetyl)-pyrrolidine (See Table 2).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 393 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)O)CCC1 | C25H30N2O5
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-benzyloxycarbonyl-L-prolyl)-2-(phenoxyacetyl)-pyrrolidine | 328 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)=O)CCC1 | C25H28N2O5
